US07157487B2
In methanol/trifluoroacetic acid (40 ml, 1:1) was dissolved methyl 4-(4-N-benzyloxycarbonyl-(3S)-morpholinylmethoxy)benzoate (2.18 g, 5.65 mmol). To the resulting solution was added 50% rhodium-alumina/carbon (1 g), followed by catalytic hydrogenation at room temperature for 48 hours under hydrogen of 5 atm. From the reaction mixture, the catalyst was filtered off. The filtrate was distilled under reduced pressure to remove the solvent. The residue was dissolved in THF (20 ml). Triethylamine (3.9 ml, 28.3 mmol) and di-tert-butyl dicarbonate (1.85 g, 8.5 mmol) were added and the resulting mixture was stirred for 18 hours at room temperature. From the reaction mixture, the solvent was distilled off under reduced pressure. Water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (middle pressure chromatography system: YAMAZEN YFLC-5404-FC) to give methyl 4-(4-tert-butoxycarbonyl-(3S)-morpholinylmethoxy)cyclohexanecarboxylate as a thick sticky liquid.

reactant | methyl 4-(4-N-benzyloxycarbonyl-(3S)-morpholinylmethoxy)benzoate | 5.65 mmol, 2.18 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](COCC1)COC1=CC=C(C(=O)OC)C=C1 | C21H23NO6
reactant | Triethylamine | 28.3 mmol, 3.9 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 8.5 mmol, 1.85 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol trifluoroacetic acid | 40 ml | CO.FC(C(=O)O)(F)F
product | methyl 4-(4-tert-butoxycarbonyl-(3S)-morpholinylmethoxy)cyclohexanecarboxylate | C(C)(C)(C)OC(=O)N1[C@@H](COCC1)COC1CCC(CC1)C(=O)OC | C18H31NO6
